US09371264B2
A solution of {2-Hydroxy-1-[3-(tetrahydro-pyran-2-yloxy)-octyl]-2,3,3a,4,9,9a-hexahydro-1H-cyclopenta[b]naphthalen-5-yloxy}-acetic acid (94 mg, 0.2 mmol), trifluoroethylamine (54 mg, 0.6 mmol) and DIPEA (104 μl, 0.6 mmol) in DMF (2 ml) was treated with HATU and stirred 24 hr at RT. The reaction mixture was diluted with MTBE and washed with saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated under vacuum. The residue was purified by silica gel chromatography. This resulting material was dissolved in MeOH (4 ml), treated with Amberlite IR120H and stirred 24 hr. The reaction mixture was filtered and concentrated to yield 2-[2-hydroxy-1-(3-hydroxy-octyl)-2,3,3a,4,9,9a-hexahydro-1H-cyclopenta[b]naphthalen-5-yloxy]-N-(2,2,2-trifluoro-ethyl)-acetamide (46 mg) as an oil. 1HNMR (400 MHz, CDCl3) δ 7.06 (d, 1H, J=7.6); 6.80 (d, 1H, J=7.2); 6.63 (d, 1H, J=8.0); 4.86 (quint., 1H, J=6.4); 4.60 (s, 2H); 3.7-3.8 (m, 1H); 3.55-3.65 (m, 1H); 2.85-2.95 (ddd, 1H); 2.70-2.80 (dd, 1H); 2.50-2.60 (ddd, 1H); 2.40-2.50 (dd, 1H); 2.15-2.3 (m, 2H); 1.75-1.95 (m, 2H); 1.24-1.70 (m, 17H); 1.20 (d, 3H, J=6.4); 0.85-0.95 (m, 8H); MS: m/z 494 [M+Na]+

reactant | {2-Hydroxy-1-[3-(tetrahydro-pyran-2-yloxy)-octyl]-2,3,3a,4,9,9a-hexahydro-1H-cyclopenta[b]naphthalen-5-yloxy}-acetic acid | 0.2 mmol, 94 mg | OC1CC2C(CC3=CC=CC(=C3C2)OCC(=O)O)C1CCC(CCCCC)OC1OCCCC1 | C28H42O6
reactant | trifluoroethylamine | 0.6 mmol, 54 mg | FC(CN)(F)F | C2H4F3N
reactant | DIPEA | 0.6 mmol, 104 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-[2-hydroxy-1-(3-hydroxy-octyl)-2,3,3a,4,9,9a-hexahydro-1H-cyclopenta[b]naphthalen-5-yloxy]-N-(2,2,2-trifluoro-ethyl)-acetamide | 46 mg | OC1CC2C(CC3=CC=CC(=C3C2)OCC(=O)NCC(F)(F)F)C1CCC(CCCCC)O | C25H36F3NO4
